US07056349B2
2-Methyl-1,4-benzoquinone-4-oxime was prepared by reaction of 2-methylphenol with sodium nitrite under acidic conditions by the method described by T. Ishikawa et al. in J. Org. Chem. 1996, 61, page 2778.

reactant | 2-methylphenol | CC1=C(C=CC=C1)O | C7H8O
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 2-Methyl-1,4-benzoquinone-4-oxime | CC=1C(C=CC(C1)=NO)=O | C7H7NO2
